US09388172B2
In a 20 mL round-bottomed flask, 3,3,3-trifluoro-2-((2-(3-(trifluoromethyl)phenyl)morpholino)-methyl)propyl methanesulfonate (850 mg, 1.95 mmol) and sodium cyanide (957 mg, 19.5 mmol) were combined with DMF (30 ml) to give a light yellow solution. The reaction mixture was heated at 60° C. and stirred for 2 h. The reaction mixture was diluted with ether (60 ml), washed with brine and H2O, dried over MgSO4, filtered and concentrated to give crude product as an oil. The crude material was purified by flash chromatography (silica gel, 40 g, 0% to 60% ethyl acetate in hexanes) to afford 400 mg (56%) of 4,4,4-trifluoro-3-[2-(3-trifluoromethylphenyl)-morpholin-4-ylmethyl]-butyronitrile as a colorless oil. MH+=367.

reactant | 3,3,3-trifluoro-2-((2-(3-(trifluoromethyl)phenyl)morpholino)-methyl)propyl methanesulfonate | 1.95 mmol, 850 mg | CS(=O)(=O)OCC(C(F)(F)F)CN1CC(OCC1)C1=CC(=CC=C1)C(F)(F)F | C16H19F6NO4S
reactant | sodium cyanide | 19.5 mmol, 957 mg | [C-]#N.[Na+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ether | 60 ml | CCOCC | C4H10O
product | 4,4,4-trifluoro-3-[2-(3-trifluoromethylphenyl)-morpholin-4-ylmethyl]-butyronitrile | 400 mg, 56% | FC(C(CC#N)CN1CC(OCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C16H16F6N2O
